US03959309
3-(1-Pyrrolidinyl)-8-methyl-1,2,3,4-tetrahydrocarbazole
To a solution of 87.3 g. of 4-benzoyloxycyclohexanone in 350 ml. of acetic acid was added 63.4 g. of 2-tolylhydrazine hydrochloride and the solution was heated under reflux for one hour, cooled, and filtered. The resulting solids were treated with 1.5 liters of boiling methyl alcohol and the undissolved solids were collected by filtration and recrystallized from 1 liter of methyl alcohol to give 32.5 g. of crystals, m.p. 159°-163°C. The first methyl alcohol filtrate on cooling yielded 29.1 g. of crystals, m.p. 159°-169°C. The first crop was recrystallized from 300 ml. of acetic acid, the second crop was slurried in water and filtered, and the resulting solids were combined to yield 54 g. of 3-(benzoyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole, m.p. 159°-163°C. The 3-(benzoyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole (62 g.) was converted to 23.9 g. of 3-(hydroxy)-8-methyl-1,2,3,4-tetrahydrocarbazole, m.p. 201°-204°C., following a procedure similar to that described in Example 3 for the preparation of 3-(hydroxy)-6-methoxy-1,2,3,4-tetrahydrocarbazole, 21.9 g. of which was converted to 32.6 g. of 3-(p-toluenesulfonyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole, m.p. 130°-132°C., by following a procedure similar to that described in Example 18 for the preparation of 3-(p-toluenesulfonyloxy)-1,2,3,4-tetrahydrocarbazole. A mixture of 26.9 g. of 3-p-toluenesulfonyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole and 75 ml. of pyrrolidine was heated under reflux for 11/2 hours in a nitrogen atmosphere and the solution was evaporated to dryness under reduced pressure. The residue was recrystallized from isopropyl alcohol and the resulting 8.5 g. of crystals were dissolved in ether and treated with hydrogen chloride in ethyl alcohol to give, after recrystallization from methyl alcohol, 6.8 g. of 3-(1-pyrrolidinyl)-8 -methyl-1,2,3,4-tetrahydrocarbazole, m.p. >300°C.

reactant | 4-benzoyloxycyclohexanone | C(C1=CC=CC=C1)(=O)OC1CCC(CC1)=O | C13H14O3
reactant | 2-tolylhydrazine hydrochloride | Cl.C1(=C(C=CC=C1)NN)C
reactant | 3-(benzoyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=C(C=CC=C3C2C1)C | C20H19NO2
reactant | 3-(benzoyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole | 62 g | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=C(C=CC=C3C2C1)C | C20H19NO2
reactant | 3-(hydroxy)-8-methyl-1,2,3,4-tetrahydrocarbazole | OC1CCC=2NC3=C(C=CC=C3C2C1)C | C13H15NO
reactant | 3-(hydroxy)-6-methoxy-1,2,3,4-tetrahydrocarbazole | OC1CCC=2NC3=CC=C(C=C3C2C1)OC | C13H15NO2
reactant | 3-(p-toluenesulfonyloxy)-8-methyl-1,2,3,4-tetrahydrocarbazole | C1(=CC=C(C=C1)S(=O)(=O)OC1CCC=2NC3=C(C=CC=C3C2C1)C)C | C20H21NO3S
reactant | 3-(p-toluenesulfonyloxy)-1,2,3,4-tetrahydrocarbazole | C1(=CC=C(C=C1)S(=O)(=O)OC1CCC=2NC3=CC=CC=C3C2C1)C | C19H19NO3S
reactant | 8-methyl-1,2,3,4-tetrahydrocarbazole | CC=1C=CC=C2C=3CCCCC3NC12 | C13H15N
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | methyl alcohol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1-Pyrrolidinyl)-8-methyl-1,2,3,4-tetrahydrocarbazole | N1(CCCC1)C1CCC=2NC3=C(C=CC=C3C2C1)C | C17H22N2
